### PR TITLE
riscv crefine and SEAR: arch-split SEAR and custom proofs about clz and ctz

### PR DESCRIPTION
**Pull request by MitchellBuckley**
Some architectures support count-leading-zeroes and count-trailings-zeros functions within the instruction set and others do not. This means that binary verification must treat them differently on RISCV64 than on ARM. In ARM their behaviour is axiomatized because we must make basic assumptions about the semantics of instructions. In RISCV, we must verify the C code which implements these functions. As a result, instructions to the CParser must be updated, and that creates a hole in the existing CRefine proofs for RISCV64.

This work supplies the appropriate CRefine proofs, and arch-splits the SimplExportAndRefine session so that this issue is handled appropriatelt on different architectures.

### CODE REVIEW

File: proof/asmrefine/export/SEL4SimplExport.thy [hunk 1]
```diff
@@ -5,7 +5,7 @@
  *)
 
 theory SEL4SimplExport
-imports "AsmRefine.SimplExport" "CSpec.Substitute"
+imports "CSpec.Substitute" "ArchSEL4SimplExport"
```
Comment (MitchellBuckley) [inline proof/asmrefine/export/SEL4SimplExport.thy:8]: undo this change

File: proof/asmrefine/export/SEL4SimplExport.thy [hunk 2]
```diff
@@ -43,5 +27,4 @@ ML \<open>
 
 end
 
-end
-
+end
```
Comment (MitchellBuckley) [inline proof/asmrefine/export/SEL4SimplExport.thy:30]: undo this change

File: proof/crefine/RISCV64/Machine_C.thy [hunk 3]
```diff
@@ -130,6 +130,539 @@ lemma dmo_if:
   "(doMachineOp (if a then b else c)) = (if a then (doMachineOp b) else (doMachineOp c))"
   by (simp split: if_split)
 
-end
+(* Count leading and trailing zeros. *)
+
+(* FIXME: move *)
```
Comment (MitchellBuckley) [inline proof/crefine/RISCV64/Machine_C.thy:135]: Move all the FIXME moves.

File: proof/crefine/RISCV64/Machine_C.thy [hunk 4]
```diff
@@ -130,6 +130,539 @@ lemma dmo_if:
...
+  shows "hoarep \<Gamma> \<Theta> F P (Seq c d) R A"
+  by (rule hoarep.Seq[OF HoarePartialDef.conseqPrePost[OF c] d]; simp)
+
+definition clz32_step where
+  "clz32_step i \<equiv> \<acute>mask___unsigned :== \<acute>mask___unsigned >> unat ((1::32 sword) << unat i);;
+                 \<acute>bits :== SCAST(32 signed \<rightarrow> 32) (if \<acute>mask___unsigned < \<acute>x___unsigned then 1 else 0) << unat i;;
+                 Guard ShiftError \<lbrace>\<acute>bits < SCAST(32 signed \<rightarrow> 32) 0x20\<rbrace> (\<acute>x___unsigned :== \<acute>x___unsigned >> unat \<acute>bits);;
+                 \<acute>count :== \<acute>count - \<acute>bits"
+
+(* FIXME: figure out what this should be *)
```
Comment (MitchellBuckley) [inline proof/crefine/RISCV64/Machine_C.thy:166]: Remove this comment and similar.

File: proof/crefine/RISCV64/Machine_C.thy [hunk 5]
```diff
@@ -130,6 +130,539 @@ lemma dmo_if:
...
+\<comment>\<open>This function returns an expression stating that the first element in xs satisfying P
+   is at n, or there is no such element.
+   Another way of saying this is: "all elements of xs before the (n+1)th do not satisfy P and when the
+   (n+1)th element exists it does satisfy P".\<close>
+definition first_in_list where
+  "first_in_list P n xs \<equiv> (\<forall>i. i < n \<longrightarrow> i < length xs \<longrightarrow> \<not> P (xs ! i)) \<and>
+                           (n < length xs \<longrightarrow> P (xs ! n))"
+
+  \<comment>\<open>There is always some n at which P (x ! n) or P contains no such element\<close>
+lemma helper3:
```
Comment (MitchellBuckley) [inline proof/crefine/RISCV64/Machine_C.thy:183]: Rename this and other obvious "helpers"

File: proof/crefine/RISCV64/Machine_C.thy [hunk 6]
```diff
@@ -130,6 +130,539 @@ lemma dmo_if:
...
+  unfolding clz32_step_def
+  apply (vcg, clarsimp simp: clz32_invariant_def)
+  \<comment> \<open>Introduce some trivial but useful facts so that most later goals are solved with simp\<close>
+  apply (prop_tac "i \<noteq> -1", clarsimp simp: unat_minus_one_word)
+  apply (frule unat_Suc2)
+  apply (prop_tac "(2 :: nat) ^ unat i < (32 :: nat)",
+         clarsimp simp: power_strict_increasing_iff[where b=2 and y=5, simplified])
+  apply (prop_tac "(2 :: nat) ^ unat (i + 1) \<le> (32 :: nat)",
+         clarsimp simp: unat_Suc2 power_increasing_iff[where b=2 and y=4, simplified])
+
```
Comment (MitchellBuckley) [inline proof/crefine/RISCV64/Machine_C.thy:282]: space

File: proof/crefine/RISCV64/Machine_C.thy [hunk 7]
```diff
@@ -130,6 +130,539 @@ lemma dmo_if:
...
+                 Guard ShiftError \<lbrace>\<acute>bits < SCAST(32 signed \<rightarrow> 32) 0x20\<rbrace> (\<acute>x___unsigned :== \<acute>x___unsigned >> unat \<acute>bits);;
+                 \<acute>count :== \<acute>count - \<acute>bits"
+
+(* FIXME: figure out what this should be *)
+definition clz32_invariant where
+  "clz32_invariant i s \<equiv> {s'.
+   mask___unsigned_' s' \<ge> x___unsigned_' s'
+   \<and> of_nat (word_clz (x___unsigned_' s')) + count_' s' = of_nat (word_clz (x___unsigned_' s)) + 32
+   \<and> mask___unsigned_' s' = mask (2 ^ unat i)
+}"
```
Comment (MitchellBuckley) [inline proof/crefine/RISCV64/Machine_C.thy:172]: nitpick: fix indentation

File: proof/crefine/RISCV64/Machine_C.thy [hunk 8]
```diff
@@ -130,6 +130,539 @@ lemma dmo_if:
...
+  apply (induction n; simp)
+  apply (subgoal_tac "0 \<noteq> z >> n")
+  apply (subst shiftr_Suc)
+  apply (subst word_clz_shiftr_1; simp)
+  apply (clarsimp simp: word_less_nat_alt shiftr_div_2n' div_mult2_eq)
+  apply (case_tac "unat z div 2 ^ n = 0"; simp)
+  apply (clarsimp simp: div_eq_0_iff)
+  done
+
+lemma word_clz_shiftr':
```
Comment (MitchellBuckley) [inline proof/crefine/RISCV64/Machine_C.thy:260]: Do we really need both of these similar lemmas?

File: proof/crefine/RISCV64/Machine_C.thy [hunk 9]
```diff
@@ -130,6 +130,539 @@ lemma dmo_if:
...
+                   \<acute>bits :== SCAST(32 signed \<rightarrow> 32) (if \<acute>mask___unsigned_longlong < \<acute>x___unsigned_longlong then 1 else 0) << unat i;;
+                   Guard ShiftError \<lbrace>\<acute>bits < SCAST(32 signed \<rightarrow> 32) 0x40\<rbrace> (\<acute>x___unsigned_longlong :== \<acute>x___unsigned_longlong >> unat \<acute>bits);;
+                   \<acute>count :== \<acute>count - \<acute>bits"
+
+definition clz64_invariant where
+  "clz64_invariant i s \<equiv> {s'.
+   mask___unsigned_longlong_' s' \<ge> x___unsigned_longlong_' s'
+   \<and> of_nat (word_clz (x___unsigned_longlong_' s')) + count_' s' = of_nat (word_clz (x___unsigned_longlong_' s)) + 64
+   \<and> mask___unsigned_longlong_' s' = mask (2 ^ unat i)
+}"
```
Comment (MitchellBuckley) [inline proof/crefine/RISCV64/Machine_C.thy:336]: nitpick indentation

File: proof/crefine/RISCV64/Machine_C.thy (hunk 3 above)
Comment (MitchellBuckley) [reply proof/crefine/RISCV64/Machine_C.thy:135]: Do I need to? I'm not sure if other parts of l4v would make use of these.

**Review by mbrcknl — COMMENTED** [review]
I'm still looking at `RISCV64/Machine_C.thy`, but here are a couple of minor comments.

File: proof/crefine/RISCV64/Machine_C.thy [hunk 10]
```diff
@@ -130,6 +130,528 @@ lemma dmo_if:
...
+  apply (case_tac i; simp)
+  done
+
+\<comment>\<open> If you know where P first fails to be true, then you know how to compute takeWhile with take. \<close>
+lemma takeWhile_take_equiv:
+  "first_in_list (not P) n xs \<Longrightarrow> takeWhile P xs = take n xs"
+  apply (rule takeWhile_eq_take_P_nth)
+  apply (clarsimp simp: first_in_list_def pred_neg_def)
+  apply (clarsimp simp: first_in_list_def pred_neg_def)
+  done
```
Comment (mbrcknl) [inline proof/crefine/RISCV64/Machine_C.thy:195]: I was mildly dubious about whether this deserved a definition, but I think you've convinced me.

If you feel like it, you could tune this slightly:
- Consider inverting the condition, since it gives nicer theorems about `takeWhile` and `dropWhile`, and you only ever use it inverted anyway.
- With the inverted condition, it needs a new name. TBH, `first_in_list` didn't strike me as a great name. Perhaps `list_while_len`? Still not amazing, but it attempts to capture that something is true up to some length.
- Rephrase `takeWhile_take_equiv` as an equivalence:
  ```
  lemma list_while_len_takeWhile:
    "list_while_len P n xs == takeWhile P xs = take n xs"
  ```
  There'd be a similar rule for `dropWhile` and `drop`, but no need to add that if you don't need it.

File: proof/crefine/RISCV64/Machine_C.thy [hunk 11]
```diff
@@ -130,6 +130,528 @@ lemma dmo_if:
...
+  apply (prop_tac "(2 :: nat) ^ unat (i + 1) \<le> (32 :: nat)",
+         clarsimp simp: unat_Suc2 power_increasing_iff[where b=2 and y=4, simplified])
+  apply (intro conjI impI; clarsimp)
+       apply (clarsimp simp: word_less_nat_alt)
+      apply (erule le_shiftr)
+     apply (clarsimp simp: word_size shiftr_mask2 word_clz_shiftr')
+    apply (clarsimp simp: shiftr_mask2)
+   apply fastforce
+  apply (clarsimp simp: shiftr_mask2)
+  done
```
Comment (mbrcknl) [inline proof/crefine/RISCV64/Machine_C.thy:285]: I like this.

File: proof/crefine/RISCV64/Machine_C.thy [hunk 12]
```diff
@@ -130,6 +130,528 @@ lemma dmo_if:
...
+    apply (clarsimp simp del: word_neq_0_conv)
+    apply (subgoal_tac "word_ctz z < n", clarsimp)
+    apply (rule word_ctz_bound_above, clarsimp simp: word_size)
+    apply (subst (asm) and_mask_eq_iff_shiftr_0[symmetric], clarsimp simp: nz)
+   apply (rule word_ctz_bound_below, clarsimp simp: word_size)
+   apply (rule mask_zero)
+   apply (rule is_aligned_shiftr, simp add: is_aligned_mask)
+   apply (case_tac "z && mask (Suc n) = 0", simp)
+   apply (frule word_ctz_bound_above[rotated]; clarsimp simp: word_size)
+   apply simp
```
Comment (mbrcknl) [inline proof/crefine/RISCV64/Machine_C.thy:471]: Nit: indentation.
```suggestion
  apply simp
```

File: proof/crefine/RISCV64/Machine_C.thy [hunk 13]
```diff
@@ -130,6 +130,528 @@ lemma dmo_if:
...
+                 \<acute>count :== \<acute>count - \<acute>bits"
+
+definition clz32_invariant where
+  "clz32_invariant i s \<equiv> {s'.
+   mask___unsigned_' s' \<ge> x___unsigned_' s'
+   \<and> of_nat (word_clz (x___unsigned_' s')) + count_' s' = of_nat (word_clz (x___unsigned_' s)) + 32
+   \<and> mask___unsigned_' s' = mask (2 ^ unat i)}"
+
+\<comment>\<open> This function returns an expression stating that "if xs contains an element satisfying P, then
+    the nth element of xs is the *first* that satisfies P". \<close>
```
Comment (mbrcknl) [inline proof/crefine/RISCV64/Machine_C.thy:173]: Comments can usually jump straight into the interesting bit.
```suggestion
\<comment>\<open>If xs contains any elements satisfying P, then the nth element is the first of these.\<close>
```

**Review by mbrcknl — APPROVED** [review]
This looks good. There are a few things that could be generalised, but none that look particularly obvious, so now is probably not the time to try. There are quite a lot of things that could be moved somewhere in Word_Lib. For now, you could just tag them all as `FIXME BV: move`, or put them at the end of `Move_C`.

**Comment by mbrcknl** [comment]
I've slightly generalised a few things, and moved lots of things. Hopefully didn't break anything.

[L4V-GHTESTBOARD10-1](https://bamboo.ts.data61.csiro.au/browse/L4V-GHTESTBOARD10-1)

File: proof/crefine/RISCV64/Machine_C.thy (hunk 3 above)
Comment (mbrcknl) [reply proof/crefine/RISCV64/Machine_C.thy]: Done.

File: proof/asmrefine/export/SEL4SimplExport.thy (hunk 1 above)
Comment (mbrcknl) [reply proof/asmrefine/export/SEL4SimplExport.thy]: Done.

File: proof/crefine/RISCV64/Machine_C.thy (hunk 10 above)
Comment (mbrcknl) [reply proof/crefine/RISCV64/Machine_C.thy]: Done.

File: proof/crefine/RISCV64/Machine_C.thy (hunk 13 above)
Comment (mbrcknl) [reply proof/crefine/RISCV64/Machine_C.thy]: Done.

**Comment by mbrcknl** [comment]
Now with proper sign-off...

[L4V-GHTESTBOARD11-1](https://bamboo.ts.data61.csiro.au/browse/L4V-GHTESTBOARD11-1)

**Comment by mbrcknl** [comment]
Fixed a couple of typos.

[L4V-GHTESTBOARD13-1](https://bamboo.ts.data61.csiro.au/browse/L4V-GHTESTBOARD13-1)
